US07176242B2
N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide
3-[(Dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid is dissolved in DMF (8 mL), and diisopropylethylamine (456 μL, 2.6 mmol), HATU (342 mg, 0.9 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-isopropylbenzyl)amino]butan-2-ol dihydrochloride (350 mg, 0.83 mmol) are added. The reaction stirred at room temperature 1 h. The reaction is partitioned between ethyl acetate and water. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/chloroform) provides the title compound as the free base. The residue is dissolved in diethyl ether (5 mL) and 1N hydrochloric acid in diethyl ether (2 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 663.3 [M+H]+.

reactant | 3-[(Dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1SC=CN1)CCC | C17H20N2O3S
reactant | diisopropylethylamine | 2.6 mmol, 456 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.9 mmol, 342 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-isopropylbenzyl)amino]butan-2-ol dihydrochloride | 0.83 mmol, 350 mg | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)C(C)C)O)CC1=CC(=CC(=C1)F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)C(C)C)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2SC=CN2)=O)C=C(C1)F | C37H44F2N4O3S
